US06933311B2
3-chloro-5-isocyanatoisoquinoline
5-Amino-3-chloroisoquinoline (740 mg, 4.15 mmol) was suspended in toluene (20 mL) and treated with 20% w/v phosgene solution in toluene (9 mL) and triethylamine (5 mL). The mixture was refluxed overnight and was then concentrated in vacuo and used in the next step without further purification.

reactant | 5-Amino-3-chloroisoquinoline | 4.15 mmol, 740 mg | NC1=C2C=C(N=CC2=CC=C1)Cl | C9H7ClN2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | 3-chloro-5-isocyanatoisoquinoline | ClC=1N=CC2=CC=CC(=C2C1)N=C=O | C10H5ClN2O
